US07074800B1
A solution of ethyl (1H-1,2,3-triazol-1-yl)propanoate (8.96 g, 53 mmol) in THF (50 ml) was added dropwise to a suspension of lithium aluminium hydride (3 g, 79 mmol) in THF (250 ml) cooled at 0° C. After stirring for 1 hour at 5° C., the mixture was stirred for 1 hour at ambient temperature. The mixture was cooled at 0° C. and 4N sodium hydroxide (30 ml) was added dropwise. The mixture was filtered and the solid was washed with THF followed by ethyl acetate. The filtrate was dried (MgSO4) and evaporated. The residue was purified by column chromatography, eluting with methylene chloride/methanol (94/6) to give 3-(1,2,3-triazol-1-yl)propan-1-ol (6.2 g, 92%).

reactant | ethyl (1H-1,2,3-triazol-1-yl)propanoate | 53 mmol, 8.96 g | N1(N=NC=C1)C(C(=O)OCC)C | C7H11N3O2
reactant | lithium aluminium hydride | 79 mmol, 3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 4N, 30 ml | [OH-].[Na+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 250 ml | C1CCOC1 | C4H8O
product | 3-(1,2,3-triazol-1-yl)propan-1-ol | 6.2 g, 92% | N1(N=NC=C1)CCCO | C5H9N3O
